US05187156
To a solution of Boc-Glu(OTce)-D-Trp(CHO)-Phe-OBzl (0.40 g) in 90% AcOH (10 ml), was added zinc (0.20 g). The mixture was stirred for four and half an hour at room temperature. After filtration and evaporation, the residue was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride, and dried over magnesium sulfate. The evaporated residue was subjected to column chromatography on silica gel (20 g) and eluted with a mixture of chloroform and methanol (30:1 to 9:1, gradient elution). The fractions containing the object compound were combined and evaporated. The residue was pulverized with n-hexane, filtered and dried to give Boc-Glu-D-Trp(CHO)-Phe-OBzl (0.27 g).

reactant | Boc-Glu(OTce)-D-Trp(CHO)-Phe-OBzl | 0.40 g | N([C@@H](CCC(OCC(Cl)(Cl)Cl)=O)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C40H43Cl3N4O9
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
catalyst | zinc | 0.20 g | [Zn] | Zn
product | Boc-Glu-D-Trp(CHO)-Phe-OBzl | 0.27 g | N([C@@H](CCC(O)=O)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C38H42N4O9
